* C:\Users\Marko\PycharmProjects\zavrsni\ltspice_final.asc
R1 N002 N001 10000
R2 N002 N001 15000
V3 N001 0 20
C1 N002 N001 0.01
L3 N002 0 0.01
.tran 20
.backanno
.end
